US04743691
2-Hydroxymethyl-2,5-diaminopentanoic acid hydrochloride (5 g or 2.5×10-2 mol) is suspended in 75 ml of absolute methanol and the solution is saturated with dry hydrogen chloride. The homogenous solution is then heated under reflux for 48 hours. The reaction mixture is regularly saturated with dry hydrogen chloride. The solvent is evaporated under reduced pressure and the hygroscopic residue is dried under high vacuo (6.2 g) to give methyl 2-hydroxymethyl-2,5-diaminopentanoate dihydrochloride. The ester (6.2 g) is dissolved in 100 ml of absolute methanol, and 175 ml of a methanolic solution of sodium methylate (1.15 g of Na or 5×10-2 mol) is added. The reaction mixture is stirred at room temperature under nitrogen for 24 hours. The solvent is evaporated under reduced pressure and the residue is extracted many times with hot chloroform to yield analytically pure 3-hydroxymethyl-3-amino-2-piperidone (2.9 g): m.p. 145° C.

reactant | 2-Hydroxymethyl-2,5-diaminopentanoic acid hydrochloride | 2.5×10-2 mol, 5 g | Cl.OCC(C(=O)O)(CCCN)N
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 75 ml | CO | CH4O
product | methyl 2-hydroxymethyl-2,5-diaminopentanoate dihydrochloride | Cl.Cl.OCC(C(=O)OC)(CCCN)N | InChI=1S/C7H16N2O3.2ClH/c1-12-6(11)7(9,5-10)3-2-4-8;;/h10H,2-5,8-9H2,1H3;2*1H
